US06610684B2
To a solution of 2-(2-propenyl)-9-trifluoromethyl-7,12-dihydroindolo[3,2-d][1]benzazepin-6(5H)-one (108 mg, 0.3 mmol) in DMF (6 ml) and H20 (1 ml) was added PdCl2 (6 mg, 0.03 mmol) and CuC12 (48 mg, 0.36 mmol). After stirring the mixture overnight at room temperature it was poured into 30 ml of water and extracted with ethyl acetate (50 ml X 3). The organic layers were combined, washed with water (10 ml×3) and dried over NaSO4. Evaporation of the solution yielded a residue, which was purified by flash chromatography (ethyl acetate: petrol ether=70:30) to yield 78 mg of 2-(2-oxopropyl)-9-trifluoromethyl-7,12-dihydroindolo[3,2-d][1]benzazepin-6(5H)-one (69%), mp295-297° C. (ethanol); IR 3310, 1710, 1650, 1310, 800 cm−1; 1H NMR (400 MHz) 2.20 (s 3 H), 3.58 (s, 2 H), 3.78 (s, 2 H), 7.18-7.30 (m, 2 H), 7.46 (d, J=8.6 Hz, 1 H), 7.57 (s, 1 H), 7.61 (d, J=8.1 Hz, 1 H), 8.13 (s, 1 H), 10.14 (s, 1 H), 12.07 (s, 1 H); 13C NMR (100 MHz) 29.5, 31.2, 49.9, 108.4, 112.1, 115.8, (q, J. 3 Hz), 118.3 (q 3 Hz), 120.0 (q, J=37 Hz), 122.0, 122.3, 125.5 (q, J=270 Hz), 125.8, 127.8, 130.0, 130.3, 134.3, 134.5, 138.7, 171.3, 205.9; Anal. (C2OH15N2O2F3, 372.346): calcd. C, 64.51; H 4.06; N, 7.52; found C 64.30; H, 4.23; N, 7.50

reactant | 2-(2-propenyl)-9-trifluoromethyl-7,12-dihydroindolo[3,2-d][1]benzazepin-6(5H)-one | 0.3 mmol, 108 mg | C(C=C)C=1C=CC2=C(C3=C(CC(N2)=O)C2=CC(=CC=C2N3)C(F)(F)F)C1 | C20H15F3N2O
reactant | water | 30 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2 | 0.03 mmol, 6 mg | Cl[Pd]Cl
product | 2-(2-oxopropyl)-9-trifluoromethyl-7,12-dihydroindolo[3,2-d][1]benzazepin-6(5H)-one | 78 mg, 69% | O=C(CC=1C=CC2=C(C3=C(CC(N2)=O)C2=CC(=CC=C2N3)C(F)(F)F)C1)C | C20H15F3N2O2
